US04588733
To a stirred suspension of 30 g of (E)-3-(5-bromo-2-methoxy-3-pyridinyl)-1-(3,4-dichlorophenyl)-2-propen-1-one in 275 ml of tetrahydrofuran and 260 ml of absolute ethanol was added 6.0 g of sodium borohydride. After 1 hour under nitrogen, the reaction mixture was partitioned between aqueous 1N sodium hydroxide solution and ether. The ether layer was washed with aqueous saturated sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure to give a pale yellow oil which was crude α-[2-(5-bromo-2-methoxy-3-pyridinyl)ethenyl]-3,4-dichlorobenzenemethanol. To a stirred solution of 25.9 g of this crude alcohol in 400 ml of acetic acid under nitrogen there was added 25 ml of 48% aqueous hydrobromic acid. The mixture was heated to 85° C. for about 30 minutes then cooled rapidly to 23° C. in an ice bath, and partitioned between water and ether. The ether layer was washed several times with water and then successively with aqueous saturated sodium bicarbonate and sodium chloride solutions. It was then dried over sodium sulfate and the solvent evaporated under reduced pressure to give a pale yellow oil. Filtration through a layer of silica gel using chloroform as eluant gave 6-bromo-2-(3,4-dichlorophenyl)-2H-pyrano[2,3-b]pyridine as a pale yellow solid which exhibited the same characteristics as the material obtained in Example 8.

reactant | (E)-3-(5-bromo-2-methoxy-3-pyridinyl)-1-(3,4-dichlorophenyl)-2-propen-1-one | 30 g | BrC=1C=C(C(=NC1)OC)/C=C/C(=O)C1=CC(=C(C=C1)Cl)Cl | C15H10BrCl2NO2
reactant | sodium borohydride | 6.0 g | [BH4-].[Na+]
reactant | α-[2-(5-bromo-2-methoxy-3-pyridinyl)ethenyl]-3,4-dichlorobenzenemethanol | BrC=1C=C(C(=NC1)OC)C=CC(O)C1=CC(=C(C=C1)Cl)Cl | C15H12BrCl2NO2
reactant | hydrobromic acid | 25 ml | Br | BrH
solvent | tetrahydrofuran | 275 ml | O1CCCC1 | C4H8O
solvent | ethanol | 260 ml | C(C)O | C2H6O
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 6-bromo-2-(3,4-dichlorophenyl)-2H-pyrano[2,3-b]pyridine | BrC=1C=C2C(=NC1)OC(C=C2)C2=CC(=C(C=C2)Cl)Cl | C14H8BrCl2NO
